* C:\Users\cohen\Desktop\ECG\ECG_AUDIO_OUT.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N002 N008 VE+ 0 N003 LT1001
X§U2 N022 N019 VE+ 0 N021 LT1001
R1 N019 N021 160K
R4 N003 N008 160K
R8 N004 N003 150K
R9 N012 N021 150K
R10 N016 N012 150K
R11 N005 N004 150K
X§U6 N012 N004 VE+ 0 N005 LT1001
R12 N022 N015 499K
R13 N002 N001 499K
V§LA N011 N010 PWL REPEAT FOREVER (FILE=LA.txt) ENDREPEAT
V§RA N020 N010 PWL REPEAT FOREVER (FILE=RA.txt) ENDREPEAT
V§RL_CMI N010 N026 SINE(0 0.2 50)
D1 N022 VE+ 1N4148
C2 N002 N022 10p
C3 N022 0 2.2p
C4 0 N002 2.2p
V2 0 VE- 4.5
V3 VE+ 0 4.5
C15 N001 N009 47n
C16 N015 N014 47n
R24 N015 N014 1K
R25 N001 N009 1K
R26 N009 N011 1K
R27 N014 N020 1K
D3 N002 VE+ 1N4148
D2 VE- N002 1N4148
D4 VE- N022 1N4148
R2 N008 N013 40K
R3 N013 N019 40K
X§U4 N013 N025 VE+ 0 N025 LT1001
X§U5 0 N024 VE+ 0 N023 LT1001
R5 N025 0 1Meg
R6 N013 0 1Meg
R7 N025 N024 10K
R28 N023 0 1Meg
R29 N023 N026 1K
R30 N024 N023 1Meg
X§U10 0 N017 VE+ 0 N016 LT1001
C1 N017 N016 1µ
R31 N005 N017 1Meg
R32 N016 0 1Meg
R14 N006 N005 200K
C5 N006 0 36n
R15 0 N018 100K
C6 N018 N005 18n
R16 N007 N006 200K
C7 N007 N018 18n
.model D D
.lib C:\Users\cohen\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 10 0 50u ;
.lib LTC.lib
.backanno
.end
