* C:\Users\cohen\Desktop\ECG\ECG_AUDIO_OUT.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N002 N006 VE+ VE- N003 LT1001
X§U2 N019 N016 VE+ VE- N018 LT1001
R1 N016 N018 160K
R4 N003 N006 160K
R8 N004 N003 150K
R9 N010 N018 150K
R10 N014 N010 150K
R11 N005 N004 150K
X§U6 N010 N004 VE+ VE- N005 LT1001
R12 N019 N013 499K
R13 N002 N001 499K
V§LA N009 N008 PWL REPEAT FOREVER (FILE=LA.txt) ENDREPEAT
V§RA N017 N008 PWL REPEAT FOREVER (FILE=RA.txt) ENDREPEAT
V§RL_CMI N008 N023 SINE(0 0.2 50)
D1 N019 VE+ 1N4148
C2 N002 N019 10p
C3 N019 0 2.2p
C4 0 N002 2.2p
V2 0 VE- 3.5
V3 VE+ 0 3.5
C15 N001 N007 47n
C16 N013 N012 47n
R24 N013 N012 1K
R25 N001 N007 1K
R26 N007 N009 1K
R27 N012 N017 1K
D3 N002 VE+ 1N4148
D2 VE- N002 1N4148
D4 VE- N019 1N4148
R2 N006 N011 20K
R3 N011 N016 20K
X§U4 N011 N022 VE+ VE- N022 LT1001
X§U5 0 N021 VE+ VE- N020 LT1001
R5 N022 0 1Meg
R6 N011 0 1Meg
R7 N022 N021 10K
R28 N020 0 1Meg
R29 N020 N023 1K
R30 N021 N020 1Meg
X§U10 0 N015 VE+ VE- N014 LT1001
C1 N015 N014 1µ
R31 N005 N015 1Meg
R32 N014 0 1Meg
.model D D
.lib C:\Users\cohen\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 2 0 50u ;
.lib LTC.lib
.backanno
.end
