* C:\Users\cohen\Desktop\ECG\ECG_AUDIO_OUT.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N004 N008 VE+ VE- N005 LT1001
X§U2 N022 N019 VE+ VE- N021 LT1001
R1 N019 N021 160K
R4 N005 N008 160K
R8 N006 N005 150K
R9 N012 N021 150K
R10 N017 N012 150K
R11 N007 N006 150K
X§U6 N012 N006 VE+ VE- N007 LT1001
R12 N022 N016 499K
R13 N004 N003 499K
V§LA N011 N010 PWL REPEAT FOREVER (FILE=LA.txt) ENDREPEAT
V§RA N020 N010 PWL REPEAT FOREVER (FILE=RA.txt) ENDREPEAT
V§RL_CMI N010 N026 SINE(0 0.2 50)
D1 N022 VE+ 1N4148
C2 N004 N022 10p
C3 N022 0 2.2p
C4 0 N004 2.2p
V2 0 VE- 3.5
V3 VE+ 0 3.5
C15 N003 N009 47n
C16 N016 N015 47n
R24 N016 N015 1K
R25 N003 N009 1K
R26 N009 N011 50K
R27 N015 N020 1K
D3 N004 VE+ 1N4148
D2 VE- N004 1N4148
D4 VE- N022 1N4148
R2 N008 N014 40K
R3 N014 N019 40K
X§U4 N014 N025 VE+ VE- N025 LT1001
X§U5 0 N024 VE+ VE- N023 LT1001
R5 N025 0 1Meg
R6 N014 0 1Meg
R7 N025 N024 10K
R28 N023 0 1Meg
R29 N023 N026 1K
R30 N024 N023 1Meg
X§U10 0 N018 VE+ VE- N017 LT1001
C1 N018 N017 1µ
R31 N007 N018 1Meg
R32 N017 0 1Meg
R14 N001 N007 75K
X§U3 0 N001 VE+ VE- N002 LT1001
R15 N002 N001 1Meg
C5 N002 N001 0.0015µ
R16 N013 N002 100
C6 N013 0 0.1µ
C7 N024 N023 0.001µ
.model D D
.lib C:\Users\cohen\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 3 0 100u ;
.lib LTC.lib
.backanno
.end
